US08378104B2
1-{4-[4-(7-amino-2-cyclopentylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone
1-{4-[4-(7-Amino-2-cyclopent-1-enyl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidin-1-yl}-ethanone (80 mg, 0.2 mmol) and10% Pd/C (20 mg) were suspended in dry THF (30 mL) and the solution was stirred at rt under a hydrogen balloon overnight. The Pd/C was filtered and the filtrate was concentrated. The residue was purified by preparative TLC (5:1 DCM:MeOH) to afford 32 mg (40%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 8.03 (d, J=0.8 Hz, 1H), 7.80-7.81 (d, J=0.8 Hz, 1H), 7.79 (s, 1H), 6.70 (s, 1H), 4.62-4.70 (m, 1H), 4.49-4.51 (m, 1H), 4.10-4.22 (m, 1H), 3.31-3.33 (m, 1H), 2.76-2.85 (m, 1H), 2.15-2.20 (m, 2H), 2.14 (s, 3H), 2.08-2.14 (m, 2H), 1.92-2.08 (m, 2H), 1.85-1.88 (m, 5H), 1.70-1.78 (m, 2H); MS (ESI): 394.16 [M+H]+; HPLC tR=2.40 min (ZQ3: polar—4 min).

reactant | 1-{4-[4-(7-Amino-2-cyclopent-1-enyl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidin-1-yl}-ethanone | 0.2 mmol, 80 mg | NC=1N=CC(=C2C1OC(=C2)C2=CCCC2)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C22H25N5O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 1-{4-[4-(7-amino-2-cyclopentylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | 32 mg, 40% | NC=1N=CC(=C2C1OC(=C2)C2CCCC2)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C22H27N5O2
